US05284847
Ethyl 2-ethoxalylamino-3-nitro-4-propylthiophene-5-carboxylate
A mixture of 2-ethoxalylamino-4-propylthiophene-5-carboxylate (9.0 g, 28.7 mmol) in 52 ml of acetic anhydride and 58 ml of methylene chloride was stirred in a dry nitrogen atmosphere and cooled to -10° C. A mixture of nitric acid (1.78 ml, d=1.52) in 40 ml of acetic acid was added dropwise during 0.5 hours. The reaction mixture was stirred at 0°-5° C. for 16 hours and poured into ice water. The organic phase was separated and carefully neutralized with saturated aqueous sodium hydrogen carbonate. The neutral organic phase was washed with water, dried (Na2SO4) and the solvent was evaporated. The residue was dissolved in methanol and water was added to favour precipitation. The precipitate was filtered off, washed with cold aqueous methanol and dried. Yield 4.77 g (46%) of ethyl 2-ethoxalylamino-3-nitro-4-propylthiophene-5-carboxylate. M.p. 73°-75° C. 1H-NMR (DMSO-d6, δ): 0.98 (t, 3H), 1.39 (t, 3H), 1.45 (t, 3H), 1.55 (hex, 2H), 3.20 (t, 2H), 4.31 (q, 2H), 4.38 (q, 2H), 12.02 (s, 1H).

reactant | 2-ethoxalylamino-4-propylthiophene-5-carboxylate | 28.7 mmol, 9.0 g | C(=O)(C(=O)OCC)NC=1SC(=C(C1)CCC)C(=O)[O-]
reactant | nitric acid | 1.78 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 52 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 58 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | Ethyl 2-ethoxalylamino-3-nitro-4-propylthiophene-5-carboxylate | C(=O)(C(=O)OCC)NC=1SC(=C(C1[N+](=O)[O-])CCC)C(=O)OCC | C14H18N2O7S
